US04738972
6-Benzyl-5,6,7,8-tetrahydro-2-naphthalene-carbaldehyde
2-Benzyl-6-bromo-1,2,3,4-tetrahydronaphthalene (1.5 g, 0.005 mol) was dissolved in 30 ml tetrahydro-furan and cooled to -78° C. under dry N2. Butyl lithium (2.32 ml of 2.14 M in hexane, 0.005 mol) was added and the mixture stirred at -70° C. for 1 hour. Dimethyl-formamide (0.39 ml, 0.005 mol) was then added dropwise and the mixture stirred at -70° C. for 2 hours, allowed to warmed toward room temperature for 0.5 hour, poured slowly into 38 ml of ice cold 1N HCl and extracted 2×50 ml ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4) and stripped in vacuo to yield title product as an oil, 1.26 g; tlc Rf 0.6 (4:1 hexane:ethyl acetate).

reactant | 2-Benzyl-6-bromo-1,2,3,4-tetrahydronaphthalene | 0.005 mol, 1.5 g | C(C1=CC=CC=C1)C1CC2=CC=C(C=C2CC1)Br | C17H17Br
reactant | Butyl lithium | 0.005 mol, 2.14 M, 2.32 ml | C(CCC)[Li]
reactant | Dimethyl-formamide | 0.005 mol, 0.39 ml | CN(C=O)C | C3H7NO
solvent | tetrahydro-furan | 30 ml | O1CCCC1 | C4H8O
product | 6-Benzyl-5,6,7,8-tetrahydro-2-naphthalene-carbaldehyde | C(C1=CC=CC=C1)C1CC=2C=CC(=CC2CC1)C=O | C18H18O
